US04931457
3-(4-Methoxy-1-naphthyloxy)-4-nitropyridine-N-oxide
To a solution of 4-methoxy-1-naphthol (8.87 g) in 50 ml of DMF was added sodium carbonate (7.8 g) portionwise, and after the addition was complete the mixture was stirred for 15 minutes. Then a solution of 3-fluoro-4-nitropyridine-N-oxide (8.0 g) in 50 ml DMF was added dropwise at room temperature. The reaction was then allowed to proceed for 4 hours at room temperature. The mixture was then poured into water and extracted with ethyl acetate. The organic layer was washed with NaCl (sat) and dried (anhy. MgSO4).

reactant | 4-methoxy-1-naphthol | 8.87 g | COC1=CC=C(C2=CC=CC=C12)O | C11H10O2
reactant | sodium carbonate | 7.8 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-fluoro-4-nitropyridine-N-oxide | 8.0 g | FC=1C=[N+](C=CC1[N+](=O)[O-])[O-] | C5H3FN2O3
reactant | water | O | H2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 3-(4-Methoxy-1-naphthyloxy)-4-nitropyridine-N-oxide | COC1=CC=C(C2=CC=CC=C12)OC=1C=[N+](C=CC1[N+](=O)[O-])[O-] | C16H12N2O5
